US06680313B2
c) Sodium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate
4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate (48.4 mg) was dissolved in 2.5 ml of THF and 2.5 ml of a 1/15 M sodium phosphate buffer (pH 6.6). 10% Pd-C (50 mg) was added to the solution. The air in the reaction vessel was replaced by hydrogen, and the contents of the reaction vessel were stirred at room temperature for 2 hr. The catalyst was removed by filtration on Celite, and was washed with water. The filtrate was washed with ethyl acetate, and was then concentrated under the reduced pressure to bring the volume of the solution to about 1 ml. The residue was purified by column chromatography on Cosmosil 40C18-PREP (20% aqueous methanol solution) to prepare 15.8 mg of the title compound.

reactant | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate | 48.4 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SCCO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C24H24N4O7S2
reactant | sodium phosphate | 15 M, pH 6.6 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | 50 mg | [Pd] | Pd
product | Sodium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SCCO)C(=O)[O-])C1=O.[Na+] | InChI=1S/C17H19N3O5S2.Na/c1-7-10(9-5-19-6-18-14(16(19)27-9)26-4-3-21)13(17(24)25)20-12(7)11(8(2)22)15(20)23;/h5-8,11-12,21-22H,3-4H2,1-2H3,(H,24,25);/q;+1/p-1/t7-,8+,11+,12+;/m0./s1
